US08557983B2
2-(4-fluorotetrahydro-2H-pyran-4-yl)-2-hydroxyacetonitrile
EXAMPLE 296A (11.5 g) was dissolved in dichloromethane (40 mL) in a polypropylene bottle. The bottle was cooled to 0° C. To this solution was added 70% hydrogen fluoride-pyridine (10.3 mL) slowly. The solution was allowed to warm to room temperature over 3 hours, and stirred for 24 hours. The reaction mixture was diluted with ethyl acetate (200 mL) and poured into saturated aqueous NaHCO3. Additional solid NaHCO3 was used to neutralize the solution carefully until bubbling ceased. The organic layer was isolated, and the aqueous layer was extracted with additional ethyl acetate three times (150 mL each). The combined organic layers were washed with 1% aqueous HCl, brine, dried (MgSO4), filtered and concentrated to give the desired compound which was used directly in the next reaction.

reactant | polypropylene | C(C(C)[*:2])[*:1]
reactant | hydrogen fluoride-pyridine | 10.3 mL | N1=CC=CC=C1.F
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 2-(4-fluorotetrahydro-2H-pyran-4-yl)-2-hydroxyacetonitrile | FC1(CCOCC1)C(C#N)O | C7H10FNO2
